US05807866
(b) (7-Chloroquinolin-2-yl)methyltriphenylphosphonium bromide
Triphenylphosphine (1.83 g, 6.99 mmol) was added portionwise to a magnetically stirred solution of 2-bromomethyl-7-chloroquinoline (1.2 g, 4.69 mmol) in dry acetonitrile (10.0 ml) at 60° C. The resulting yellow solution was heated at 60° C. for 27 h with the precipitation of a cream solid. The cooled solution was diluted with diethyl ether (8.0 ml) and filtered to afford the title compound as a cream solid (1.95 g, 80%). Crystallised from ethanol and ethyl acetate as a cream microcrystalline solid, m.p. >200° C.; (Found: C, 64.61; H, 4.22; N, 2.62; Cl, 6.82. C28H22ClBrNP requires C, 64.82; H, 4.27; N, 2.70, Cl, 6.83%). νmax (nujol)/cm-1 1610.0, 1594.0. δH (270 MHz) 5.94 (2H, d, CH2P, 3J=14.2 Hz); 7.43 (1H, dd, 6-H, Jo =8.6, Jm =2.0 Hz); 7.50 (1H, d, 8-H, Jm =2.0 Hz); 7.57-7.95 (16H, m, ArH); 8.03 (1H, d, 3-H, Jo =8.6 Hz); 8.11 (1H, d, 4-H, Jo =8.6 Hz); m/z 437.4 (1.18), 262.3 (11.01), 177.1 (3.13), 43.1 (100).

reactant | Triphenylphosphine | 6.99 mmol, 1.83 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 2-bromomethyl-7-chloroquinoline | 4.69 mmol, 1.2 g | BrCC1=NC2=CC(=CC=C2C=C1)Cl | C10H7BrClN
solvent | acetonitrile | 10.0 ml | C(C)#N | C2H3N
solvent | diethyl ether | 8.0 ml | C(C)OCC | C4H10O
product | (7-Chloroquinolin-2-yl)methyltriphenylphosphonium bromide | 1.95 g, 80% | [Br-].ClC1=CC=C2C=CC(=NC2=C1)C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C28H22ClNP.BrH/c29-23-18-16-22-17-19-24(30-28(22)20-23)21-31(25-10-4-1-5-11-25,26-12-6-2-7-13-26)27-14-8-3-9-15-27;/h1-20H,21H2;1H/q+1;/p-1
